US05086055
5-[2-(4-phenyl-1-piperazinyl)ethyl]-3-phenyl-2-oxazolidinone
Following the procedure of Example 2, the title compound was prepared from 5-(2-chloroethyl)-3-phenyl-2-oxazolidinone and 1-phenylpiperazine.

reactant | 5-(2-chloroethyl)-3-phenyl-2-oxazolidinone | ClCCC1CN(C(O1)=O)C1=CC=CC=C1 | C11H12ClNO2
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | 5-[2-(4-phenyl-1-piperazinyl)ethyl]-3-phenyl-2-oxazolidinone | C1(=CC=CC=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C1=CC=CC=C1 | C21H25N3O2
